* REPAIRED DECK -- interventions applied, listed below.
* The literal reconstruction is in the .literal.cir beside this file.
* interventions: 2
*   [assumption/behaviour-changing] placeholder_values: assigned per-class placeholder values (no OCR)
*   [assumption/behaviour-changing] no_dc_path_to_ground: added shunt R 1e+09 from n15 to 0
* Auto-generated SPICE netlist (NO TEXT OCR USED)

Q1 n13 n9 n7 QPNPdefault
D1 n5 n3 Ddefault
D2 n10 n5 Ddefault
Q2 n4 n10 n14 QNPNdefault
R1 n7 n4 1k
R2 n2 n6 1k
R3 n6 n7 1k
Q3 n12 n8 n6 QPNPdefault
Q4 n1 n3 n4 QNPNdefault
R4 n1 n2 1k
Q5 n13 n15 0 QNPNdefault
Q6 n12 n15 0 QNPNdefault
V1 n1 0 DC 15
Q7 n10 n13 0 QNPNdefault
R5 n9 0 1k
V2 n4 0 DC 15
V3 n7 0 DC 15
R6 n11 0 1k
Q8 n4 n14 0 QNPNdefault
V4 n2 0 DC 15
V5 n11 0 DC 15
Q9 n8 n11 0 QNPNdefault
.model Ddefault D
.model QNPNdefault NPN
.model QPNPdefault PNP

.op
.end
